US06255321B1
Preparation of 3-[(4-isopropyl-2-thiazolyl)methoxy]benzaldehyde
Then, 32.9 g (0.38 mol) of methyl isopropyl ketone was dissolved in 291 ml of methanol and mixed with 2.9 ml of 25% HBr-AcOH under cooling with ice. 18.7 ml (0.36 mol) of bromine was added dropwise under cooling with ice, and the reaction solution was stirred for 2 hours. The reaction solution was stirred together with water at room temperature for 30 minutes and then together with 3-(thiocarbamoylmethoxy)benzaldehyde at room temperature for 5.5 hours. Water and saturated sodium hydrogen carbonate were added to adjust the pH to 8.0, and the reaction solution was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo for removal of the solvent, and the residue was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=20:1) to give 64.3 g of the title compound in a yield of 68%.

reactant | methyl isopropyl ketone | 0.38 mol, 32.9 g | C(C)(C)C(=O)C | C5H10O
reactant | HBr AcOH | 2.9 ml | Br.CC(=O)O
reactant | bromine | 0.36 mol, 18.7 ml | BrBr | Br2
reactant | 3-(thiocarbamoylmethoxy)benzaldehyde | C(N)(=S)COC=1C=C(C=O)C=CC1 | C9H9NO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 291 ml | CO | CH4O
solvent | Water | O | H2O
product | 3-[(4-isopropyl-2-thiazolyl)methoxy]benzaldehyde | 64.3 g, yield of 68% | C(C)(C)C=1N=C(SC1)COC=1C=C(C=O)C=CC1 | C14H15NO2S
